US07053105B2
A mixture of (±)-2-amino-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinolinemethanol (0.00021 mol), described in International Patent Specification WO 00/39082, and 2-furancarbonyl chloride (0.00063 mol) in THF (1 ml) was heated for 5 hours at 60° C. The solvent was evaporated and the residue was purified by HPLC. The product fractions were collected and the solvent was evaporated, yielding (±)-N-[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-2-quinolinyl]-2-furancarboxamide, MS (ESI) m/z: 569 571 573.

reactant | (±)-2-amino-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinolinemethanol | 0.00021 mol | NC1=NC2=CC=C(C=C2C(=C1)C1=CC(=CC=C1)Cl)C(O)(C1=CN=CN1C)C1=CC=C(C=C1)Cl | C26H20Cl2N4O
reactant | 2-furancarbonyl chloride | 0.00063 mol | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (±)-N-[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-2-quinolinyl]-2-furancarboxamide | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(C1=CN=CN1C)(O)C1=CC=C(C=C1)Cl)NC(=O)C=1OC=CC1 | C31H22Cl2N4O3
